US03980677
10 Parts 1-isopropylamino-4-bromo-5-hydroxy-anthraquinone, 50 parts isobutylamine, 0.1 part each of copper(I) chloride and basic copper sulphate are boiled under reflux (appr. 70°) until only small amounts of starting material can be detected (appr. 2 hours are required). The mixture is diluted with 50 parts methanol, the precipitated needles are filtered off with suction in the cold, washed with methanol and hot water. It is also possible to filter off with suction without previous dilution with methanol. The 1-isopropylamino-5-hydroxy-4-isobutylamino-anthraquinone so obtained is sulphonated as follows:

reactant | 1-isopropylamino-4-bromo-5-hydroxy-anthraquinone | C(C)(C)NC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)O)=O)Br | C17H14BrNO3
reactant | isobutylamine | C(C(C)C)N | C4H11N
solvent | methanol | CO | CH4O
catalyst | copper(I) chloride | [Cu]Cl
catalyst | copper sulphate | S(=O)(=O)([O-])[O-].[Cu+2]
product | 1-isopropylamino-5-hydroxy-4-isobutylamino-anthraquinone | C(C)(C)NC1=CC=C(C=2C(C3=C(C=CC=C3C(C12)=O)O)=O)NCC(C)C | C21H24N2O3
